US07863291B2
A mixture of dimethyl 5-(benzyloxy)thiazolo[5,4-b]pyridin-2-ylcarbonimidodithioate (500 mg, 1.38 mmol), (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (317 mg, 1.38 mmol) and cesium carbonate (1.0 g, 3.07 mmol) in DMF (7 mL) was heated to 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature, poured into water and extracted with chloroform (4×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The mixture was purified by silica gel chromatography (2-20% [9:1 methanol:ammonium hydroxide]-chloroform) to afford (R)—N-(5-(benzyloxy)thiazolo[5,4-b]pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (390 mg, 67% yield). 1H NMR (500 MHz, CDCl3) δ ppm 9.18 (br. s., 1 H) 7.76 (d, J=8.85 Hz, 1 H) 7.50 (d, J=7.32 Hz, 2 H) 7.41 (t, J=7.32 Hz, 2 H) 7.32-7.37 (m, 1 H) 5.42 (s, 2 H) 4.02 (d, J=9.46 Hz, 1 H) 3.68 (d, J=9.46 Hz, 1 H) 3.37-3.44 (m, 1 H) 2.75-3.06 (m, 5 H) 2.13-2.25 (m, 2 H) 1.73-1.82 (m, 1 H) 1.49-1.70 (m, 3 H). MS (LC/MS) R.T.=1.69; [M+H]+=421.98.

reactant | dimethyl 5-(benzyloxy)thiazolo[5,4-b]pyridin-2-ylcarbonimidodithioate | 1.38 mmol, 500 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=N1)SC(=N2)N=C(SC)SC | C16H15N3OS3
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 1.38 mmol, 317 mg | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | cesium carbonate | 3.07 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (R)—N-(5-(benzyloxy)thiazolo[5,4-b]pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 390 mg, 67% yield | C(C1=CC=CC=C1)OC1=CC=C2C(=N1)SC(=N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C22H23N5O2S
